US07094801B2
4-{3E-[5-(4-Isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide
To a solution of 4-acetyl-benzenesulfonamide (Ex-26A, 0.12 g, 0.62 mmol) and 5-(4-isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-benzaldehyde (Ex-109E, 0.18 g, 0.62 mmol) in N,N-dimethylformamide (9 mL) was added lithium methoxide (1.0M in methanol, 2.4 mL, 2.4 mmol). The solution was allowed to stir overnight. The reaction was quenched with water. The aqueous solution was washed ethyl acetate, acidified to pH 5, extracted with dichloromethane, isopropyl alcohol (33%, v/v, in dichloromethane). The combined dichloromethane and isopropyl alcohol was washed with brine, dried over sodium sulfate and concentrated. The crude product was then stirred in ethanol (50%, v/v, in acetone) to give the title compound as a light yellow solid: m.p.>240° C. 1H NMR (DMSO-d6) δ 8.60 (s, 1H), 8.26 (d, J=8.1 Hz, 2H), 8.06 (d, J=15.3 Hz, 1H), 8.07 (s, 1H), 7.91 (d, J=8.1 Hz, 2H), 7.84 (d, J=15.3 Hz, 1H), 7.50 (s, 1H), 6.84 (s, 1H), 4.01 (s, 3H), 3.87 (s, 3H), 3.61 (d, J=7.3 Hz, 2H), 1.81–1.74 (m, 1H), 0.67 (d, J=16.7 Hz, 6H). MS m/z=471 ([M+H]+, 100%).

reactant | 4-acetyl-benzenesulfonamide | 0.62 mmol, 0.12 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)N | C8H9NO3S
reactant | 5-(4-isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-benzaldehyde | 0.62 mmol, 0.18 g | C(C(C)C)N1C(=NN=C1)C=1C(=CC(=C(C=O)C1)OC)OC | C15H19N3O3
reactant | lithium methoxide | 2.4 mmol, 1.0M, 2.4 mL | C[O-].[Li+]
solvent | N,N-dimethylformamide | 9 mL | CN(C=O)C | C3H7NO
product | 4-{3E-[5-(4-Isobutyl-4H-[1,2,4]triazol-3-yl)-2,4-dimethoxy-phenyl]-acryloyl}-benzenesulfonamide | C(C(C)C)N1C(=NN=C1)C=1C(=CC(=C(C1)/C=C/C(=O)C1=CC=C(C=C1)S(=O)(=O)N)OC)OC | C23H26N4O5S
